US05780498
Coupling of N-(3,5-dimethylbenzoyl)-N-methyl-(D)-tyrosine (prepared from (D)-tyrosine following the procedure described in example 55) with (L)-tryptophan methyl ester hydrochloride according to example 1 followed by hydrolysis of the methyl ester moiety according to example 12 gives N-(3,5-dimethylbenzoyl)-N-methyl-(D)-tyrosyl-(L)-tryptophan; FAB-MS m/e 512 (M-H)-.

reactant | N-(3,5-dimethylbenzoyl)-N-methyl-(D)-tyrosine | CC=1C=C(C(=O)N([C@H](CC2=CC=C(C=C2)O)C(=O)O)C)C=C(C1)C | C19H21NO4
reactant | (D)-tyrosine | N[C@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | (L)-tryptophan methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
product | N-(3,5-dimethylbenzoyl)-N-methyl-(D)-tyrosyl-(L)-tryptophan | CC=1C=C(C(=O)N([C@H](CC2=CC=C(C=C2)O)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)O)C)C=C(C1)C | C30H31N3O5
